US05064569
An excess of (S,S)-3-methyl-2-chloropentanoic acid is reacted with 4,4'-bis-hydroxybiphenyl analogously to Example 1. Customary working up gives optically active 4,4'-bis-(2-chloro-3-methylpentanoyloxy)-biphenyl.

reactant | (S,S)-3-methyl-2-chloropentanoic acid | C[C@H]([C@@H](C(=O)O)Cl)CC | C6H11ClO2
reactant | 4,4'-bis-hydroxybiphenyl | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
product | 4,4'-bis-(2-chloro-3-methylpentanoyloxy)-biphenyl | ClC(C(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(C(CC)C)Cl)=O)C(CC)C | C24H28Cl2O4
